### PR TITLE
feat: helper lemmas for use in the planned strong norm proof

### PR DESCRIPTION
**Pull request by WegmannDavid**
Added helper lemmas to existing files that are necessary for additional pull requests with the goal of proving strong normalization for Stlc.

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 1]
```diff
@@ -86,6 +98,24 @@ lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
...
+    s [ x := t ] ⭢βᶠ s' [ x := t ] := by
+  induction step
+  case beta m n abs_lc n_lc =>
+    cases abs_lc with | abs xs _ mem =>
+      rw [subst_open x t n m (by grind)]
+      refine beta ?_ (by grind)
+      exact subst_lc (LC.abs xs m mem) h_lc
+  case abs => grind [abs <| free_union Var]
+  all_goals grind
+
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean:87]: Please only leave one newline between each theorem.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 2]
```diff
@@ -74,6 +77,15 @@ lemma step_lc_r (step : M ⭢βᶠ M') : LC M' := by
...
   all_goals grind
 
+lemma steps_lc {M M' : Term Var} (steps : M ↠βᶠ M') (lc_M : LC M) : LC M' := by
+  induction steps <;> grind[FullBeta.step_lc_r]
+
+lemma steps_lc_or_rfl {M M' : Term Var} :
+  M ↠βᶠ M' →
+  LC M' ∨ M = M' := by
+  intro redex
+  cases redex <;> grind[FullBeta.step_lc_r]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: I think that:
```suggestion
lemma steps_lc_or_rfl {M M' : Term Var} (redex : M ↠βᶠ M') : (LC M ∧ LC M') ∨ M = M' := by
  grind
```
is the nicer generality. Please note style wise how we name as many hypotheses as possible versus immediately `intro`ing them.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 3]
```diff
@@ -86,6 +98,24 @@ lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
   case abs => grind [abs <| free_union Var]
   all_goals grind
 
+/-- Substitution respects a single reduction step. -/
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: This is now more general than the above, so we should have
```lean
/-- Substitution of a locally closed term respects a single reduction step. -/
lemma redex_subst_cong_lc (s s' t : Term Var) (x : Var) (step : s ⭢βᶠ s') (h_lc : LC t) :
    s [ x := t ] ⭢βᶠ s' [ x := t ] := ... -- proof omitted

/-- Substitution respects a single reduction step of a free variable. -/
lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
    s [ x := fvar y ] ⭢βᶠ s' [ x := fvar y ] := by
  grind [redex_subst_cong_lc]
```
Please note that I tweaked the docstrings a bit.

(The `redex_subst_cong` name should probably change, but these earliest modules have bad naming in general so I'll come back and do that myself.)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 4]
```diff
@@ -86,6 +98,24 @@ lemma redex_subst_cong (s s' : Term Var) (x y : Var) (step : s ⭢βᶠ s') :
...
+lemma redex_subst_cong_lc (s s' t : Term Var) (x : Var) (step : s ⭢βᶠ s') (h_lc : LC t) :
+    s [ x := t ] ⭢βᶠ s' [ x := t ] := by
+  induction step
+  case beta m n abs_lc n_lc =>
+    cases abs_lc with | abs xs _ mem =>
+      rw [subst_open x t n m (by grind)]
+      refine beta ?_ (by grind)
+      exact subst_lc (LC.abs xs m mem) h_lc
+  case abs => grind [abs <| free_union Var]
+  all_goals grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: This can be more compact:

```suggestion
  induction step with
  | beta => grind [subst_open, beta]
  | abs  => grind [abs <| free_union Var]
  | _ => grind
```
(I like `induction ... with` because I find it slightly more readable, but that is personal preference)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 5]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  all_goals grind [step_abs_close]
+
 /-- Multiple reduction of opening implies multiple reduction of abstraction. -/
 theorem redex_abs_cong (xs : Finset Var) (cofin : ∀ x ∉ xs, (M ^ fvar x) ↠βᶠ (M' ^ fvar x)) :
     M.abs ↠βᶠ M'.abs := by
   have ⟨fresh, _⟩ := fresh_exists <| free_union [fv] Var
   rw [open_close fresh M 0 ?_, open_close fresh M' 0 ?_]
   all_goals grind [redex_abs_close]
 
+theorem redex_abs_fvar_finset_exists (xs : Finset Var)
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: I'm not sure I'd add this as a theorem, because it is exactly the definition of the constructor. Anywhere (like below in `steps_open_l_abs`) you would use this, you can just do cases on the `M.abs ⭢βᶠ M'.abs` and get the same result.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 6]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  cases step
+  case abs L cofin => exists L
+
+
+lemma step_open_cong1 (s s' t : Term Var) (L : Finset Var)
+  (step : ∀ x ∉ L, (s ^ (fvar x)) ⭢βᶠ (s' ^ (fvar x))) (h_lc : LC t) :
+  (s ^ t) ⭢βᶠ (s' ^ t) := by
+  let x := fresh (L ∪ s.fv ∪ s'.fv)
+  have H : x ∉ (L ∪ s.fv ∪ s'.fv) := fresh_notMem (L ∪ s.fv ∪ s'.fv)
+  rw[subst_intro x t s, subst_intro x t s'] <;> simp_all[redex_subst_cong_lc]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: General style note: for `rw`, `simp`, etc. there should be a space before the bracket

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 7]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  (M M' : Term Var)
+  (step : M.abs ⭢βᶠ M'.abs) :
+  ∃ (L : Finset Var), ∀ x ∉ L, (M ^ fvar x) ⭢βᶠ (M' ^ fvar x) := by
+  cases step
+  case abs L cofin => exists L
+
+
+lemma step_open_cong1 (s s' t : Term Var) (L : Finset Var)
+  (step : ∀ x ∉ L, (s ^ (fvar x)) ⭢βᶠ (s' ^ (fvar x))) (h_lc : LC t) :
+  (s ^ t) ⭢βᶠ (s' ^ t) := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Style notes on the signature. I'd remove `1` from the name. When the list of parameters is long, we place parameters at two spaces and the type at four, e.g.
 
```suggestion
lemma step_open_cong
  (s s' t) (L : Finset Var) (step : ∀ x ∉ L, (s ^ fvar x) ⭢βᶠ (s' ^ fvar x)) (h_lc : LC t) :
    (s ^ t) ⭢βᶠ (s' ^ t) := by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 6 above)
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: For the proof, this is exactly where `free_union` is helpful, you just to to tell it to use free variables:

```suggestion
  have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
  grind [subst_intro, redex_subst_cong_lc]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 8]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  let x := fresh (L ∪ s.fv ∪ s'.fv)
+  have H : x ∉ (L ∪ s.fv ∪ s'.fv) := fresh_notMem (L ∪ s.fv ∪ s'.fv)
+  rw[subst_intro x t s, subst_intro x t s'] <;> simp_all[redex_subst_cong_lc]
+
+lemma invert_steps_abs {s t : Term Var} (step : s.abs ↠βᶠ t) :
+  ∃ (s' : Term Var), s.abs ↠βᶠ s'.abs ∧ t = s'.abs := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Signature should be a four spaces

```suggestion
    ∃ (s' : Term Var), s.abs ↠βᶠ s'.abs ∧ t = s'.abs := by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 9]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  induction step
+  · case refl => aesop
+  · case tail steps step ih =>
+      match ih with
+      | ⟨ s', step_s, eq⟩ =>
+        rw[eq] at step
+        cases step
+        · case abs s'' L step =>
+          apply step_abs_cong at step
+          grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Using `·` and `case` is redundant. If you use `free_union`, you can let `grind` figure out the case splitting:

```suggestion
  induction step with
  | refl => grind
  | tail _ step _ => cases step with grind [step_abs_cong (free_union Var)]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 10]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+    | ⟨s', step_s, eq⟩ =>
+      specialize (ih s s' lc_sabs eq1 eq.symm)
+      transitivity
+      · apply ih
+      · rw[eq,←eq2] at step
+        apply Relation.ReflTransGen.single
+        have ⟨ L, cofin⟩ := redex_abs_fvar_finset_exists (free_union [fv] Var) s' s'' step
+        apply step_open_cong1
+        · assumption
+        · assumption
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Some tips here:
- instead of using `match`, you can use `have ⟨_, _, ...⟩ :=`
- `free_union` again helps us by telling grind that sometime later we want to collect variables
- instead of `revert foo ... induction`, use `induction generalizing foo`
Here's what I end up with:

```suggestion
lemma steps_open_l_abs
  (s s' t : Term Var) (steps : s.abs ↠βᶠ s'.abs) (lc_s : LC s.abs) (lc_t : LC t) :
    (s ^ t) ↠βᶠ (s' ^ t) := by
  generalize eq : s.abs = s_abs at steps
  generalize eq' : s'.abs = s'_abs at steps
  induction steps generalizing s s' with
  | refl => grind
  | tail _ step ih =>
    specialize ih s
    cases step with grind [invert_steps_abs, step_open_cong (L := free_union Var)]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 11]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+
+lemma step_subst_r {x : Var} (s t t' : Term Var) (step : t ⭢βᶠ t') (h_lc : LC s) :
+    (s [ x := t ]) ↠βᶠ (s [ x := t' ]) := by
+  induction h_lc
+  · case fvar y =>
+      rw[Term.subst_fvar, Term.subst_fvar]
+      grind
+  · case abs L N h_lc ih =>
+      simp[subst_abs]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: There are warnings here about flexible tactics. The main idea is that if you have a `simp` in the middle of a proof this is bad for stability, because this can change meaning over time.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 12]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+      apply FullBeta.redex_abs_cong (L ∪ {x})
+      intro y h_fresh
+      rw[←Term.subst_open_var, ←Term.subst_open_var] <;> try grind[FullBeta.step_lc_r, FullBeta.step_lc_l]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: Let's try to avoid using `try` like this with `grind`. This is potentially very expensive in terms of performance.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 13]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+  · case app l r ih_l ih_r =>
+    transitivity
+    · apply FullBeta.redex_app_r_cong
+      · apply ih_r
+      · grind[Term.subst_lc, FullBeta.step_lc_l]
+    · apply FullBeta.redex_app_l_cong
+      · apply ih_l
+      · grind[Term.subst_lc, FullBeta.step_lc_r]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: I think the application case is more clear if instead of unifying via `redex_app_r_cong` you are explicit about the steps. I get

```suggestion
  induction h_lc with
  | fvar y => grind
  | abs => grind [redex_abs_cong (free_union Var)]
  | @app l r =>
     calc
       (l.app r)[x:=t] ↠βᶠ l[x := t].app (r[x:=t']) := by grind
       _               ↠βᶠ (l.app r)[x:=t'] := by grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 14]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+
+lemma steps_subst_cong2 {x : Var} (s t t' : Term Var) (step : t ↠βᶠ t') (h_lc : LC s) :
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: A better name without a number?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean [hunk 15]
```diff
@@ -97,13 +127,121 @@ lemma redex_abs_close {x : Var} (step : M ↠βᶠ M') : (M⟦0 ↜ x⟧.abs ↠
...
+    · case abs _ L h_lc =>
+      let x := fresh (L ∪ s.fv ∪ s'.fv ∪ t.fv ∪ t'.fv)
+      have H : x ∉ (L ∪ s.fv ∪ s'.fv ∪ t.fv ∪ t'.fv) := fresh_notMem _
+      rw[subst_intro x t s, subst_intro x t' s'] <;> try grind[FullBeta.steps_lc]
+      · transitivity
+        · apply steps_subst_cong2
+          · assumption
+          · grind
+        · rw[←subst_intro, ←subst_intro] <;> try grind[FullBeta.steps_lc]
+          · apply FullBeta.steps_open_l_abs <;> try grind[FullBeta.steps_lc]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: More applications of my previous suggestions:
```suggestion
    cases lc_s with
    | abs L h_lc =>
      have ⟨x, _⟩ := fresh_exists <| free_union [fv] Var
      rw [subst_intro x t s, subst_intro x t' s']
      · trans (s ^ fvar x)[x:=t']
        · grind [steps_subst_cong2]
        · grind [=_ subst_intro, steps_open_l_abs]
      all_goals grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 16]
```diff
@@ -86,4 +86,15 @@ theorem lcAt_iff_LC (M : Term Var) [HasFresh Var] : LcAt 0 M ↔ M.LC := by
         grind [fresh_exists L]
     | _ => grind [cases LC]
 
+theorem lcAt_openRec_lcAt (M N : Term Var) (i : ℕ) :
+    LcAt i (M⟦i ↝ N⟧) → LcAt (i + 1) M := by
+  induction M generalizing i <;> try grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean]:
```suggestion
  induction M generalizing i <;> grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 17]
```diff
@@ -86,4 +86,15 @@ theorem lcAt_iff_LC (M : Term Var) [HasFresh Var] : LcAt 0 M ↔ M.LC := by
...
+
+lemma open_abs_lc [HasFresh Var] : forall {M N : Term Var},
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean]: Please use named hypotheses here.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 5 above)
Comment (WegmannDavid) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: I think I added this to make it simpler to get the set in the multistep case. Would declaring it a lemma be ok? I didn't really pay much attention to the use of lemma vs theorem

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 14 above)
Comment (WegmannDavid) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: steps_subst_cong_r? I was not sure how to name many of these, I did not yet figure out the naming algorithm behind the existing lemmas.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 5 above)
Comment (WegmannDavid) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: You are right.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 14 above)
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: This seems fine. (As I think I mentioned elsewhere I need to overhaul the naming for these modules, so any difficultly picking names is probably my fault!)

**Comment by chenson2018** [comment]
Please also add a short description to the PR.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBeta.lean]: I have taken care of this.
